US06232290B1
A mixture of 1-(4-nitrophenyl)-1H-pyrazol-4-carboxylic acid methyl ester (19.44 g), Fe powder, NH4Cl, methanol and H2O was heated for 30 minutes at 80° C. for 3 hours at 100° C. The reaction mixture was concentrated by evaporation, added into dichloromethane, and was filtered. The filtrate was extracted with water, dried over magnesium sulfate and concentrated by evaporation to give 1-(4-aminophenyl)-1H-pyrazol-4-carboxylic acid methyl ester (9.84 g).

reactant | 1-(4-nitrophenyl)-1H-pyrazol-4-carboxylic acid methyl ester | 19.44 g | COC(=O)C=1C=NN(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O4
reactant | NH4Cl | [NH4+].[Cl-]
reactant | methanol | CO | CH4O
catalyst | Fe | [Fe] | Fe
solvent | H2O | O | H2O
product | 1-(4-aminophenyl)-1H-pyrazol-4-carboxylic acid methyl ester | 9.84 g | COC(=O)C=1C=NN(C1)C1=CC=C(C=C1)N | C11H11N3O2
